US09422281B2
A 100 mL round bottomed flask fitted with a nitrogen inlet was charged with (S)-1-(6-bromo-4-(furan-2-carbonyl)-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)-2,2,2-trifluoroethanone (0.626 g, 1.5 mmol), 1,4-dioxane (15 mL), 4-(methylsulfonyl)phenylboronic acid (0.360 g, 1.8 mmol), and sodium bicarbonate as a 1M solution in water (4.5 mL, 4.5 mmol). The reaction mixture was purged with nitrogen. Bis(triphenylphosphine)palladium(II) dichloride (0.01 M solution in DMF, 7.5 mL, 0.075 mmol) was added, and the reaction mixture was purged with nitrogen and heated to 80° C. overnight. The reaction was diluted with ethyl acetate (30 mL) and washed with brine (15 mL). The aqueous layer was separated and washed with ethyl acetate (30 mL) and the combined organic layers were concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (eluting with 1:1 hexanes-ethyl acetate) to afford (S)-furan-2-yl(3-methyl-7-(4-(methylsulfonyl)phenyl)-3,4-dihydroquinoxaline-1(2H)-yl)methanone (0.33 g, 55% yield) as a viscous yellow oil. MS (ESI, pos. ion) m/z 397 [M+1]+.

reactant | (S)-1-(6-bromo-4-(furan-2-carbonyl)-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)-2,2,2-trifluoroethanone | 1.5 mmol, 0.626 g | BrC=1C=C2N(C[C@@H](N(C2=CC1)C(C(F)(F)F)=O)C)C(=O)C=1OC=CC1 | C16H12BrF3N2O3
reactant | 4-(methylsulfonyl)phenylboronic acid | 1.8 mmol, 0.360 g | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | water | 4.5 mmol, 4.5 mL | O | H2O
catalyst | Bis(triphenylphosphine)palladium(II) dichloride | 0.075 mmol, 0.01 M, 7.5 mL | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | (S)-furan-2-yl(3-methyl-7-(4-(methylsulfonyl)phenyl)-3,4-dihydroquinoxaline-1(2H)-yl)methanone | 0.33 g, 55% yield | O1C(=CC=C1)C(=O)N1C[C@@H](NC2=CC=C(C=C12)C1=CC=C(C=C1)S(=O)(=O)C)C | C21H20N2O4S
